US06921763B2
A suspension of 4-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-2-indolyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate (0.200 g, 0.00039 mol) and 10% palladium on carbon (0.042 g, 0.00004 mol) in acetic acid (3 mL) was reacted with sodium hypophosphite monohydrate (0.063 g, 0.00059 mol) at 60° C. for 2 hours. Additional 10% palladium on carbon (0.042 g, 0.00004 mol) and sodium hypophosphite (0.045 g, 0.00042 mol ) was added and the mixture was stirred for 24 hours. The solvent was removed in vacuo and the residue was slurried in methanol for 4 hours. The mixture was filtered through Celite® 521, washing with methanol. The solvent was removed in vacuo and the residue was purified by preparative RP-HPLC (Rainin C18, 8 mm, 300 A, 25 cm; 50% isocratic for five minutes, then 50%-100% acetonitrile-0.1M ammonium acetate over 25 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give N2-{4-[4-amino-1-(4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (0.020 g, 0.00004 mol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 9.48 (s, 1H) 8.72 (d, 2H), 8.47 (s, 1H), 8.42 (d, 2H), 8.20 (d, 1H), 7.72 (d, 1H), 7.60 (d, 1H), 7.48 (s, 1H), 7.42 (d, 1H), 7.36 (s, 1H) 7.34 (t, 1H), 7.16 (t, 1H), 4.05 (s, 3H), 3.99 (s, 1H); RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 19.50 min.;

reactant | 4-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-2-indolyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyridiniumolate | 0.00039 mol, 0.200 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=CC=[N+](C=C2)[O-] | C27H22N8O3
reactant | sodium hypophosphite monohydrate | 0.00059 mol, 0.063 g | O.[PH2](=O)[O-].[Na+]
reactant | sodium hypophosphite | 0.00042 mol, 0.045 g | [PH2](=O)[O-].[Na+]
catalyst | palladium on carbon | 0.00004 mol, 0.042 g | [Pd] | Pd
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.00004 mol, 0.042 g | [Pd] | Pd
product | N2-{4-[4-amino-1-(4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.00004 mol, 0.020 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=CC=NC=C2 | C27H22N8O2
